US07335658B2
6-{4-[2-(2-TRIFLUOROMETHYLPHENYL)ACETYL]PIPERAZIN-1-YL}PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use (2-trifluoromethylphenyl)acetic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide, the title compound was obtained as a white solid (78.7% yield). 1H NMR (300 MHz, CDCl3) δ 8.03, 7.97, 7.67-7.64, 7.53-7.48, 7.39-7.35, 6.96, 3.91, 3.87-3.67, 3.66-3.6, 3.58-3.51, 1.53-1.46, 0.78-0.64, 0.48-0.42, 0.10-0.06. 13C NMR (75 MHz, CDCl3) δ 168.8, 162.9, 159.9, 145.3, 133.2, 132.0, 131.5, 128.5, 128.2, 127.2, 127.0, 126.3, 126.2, 125.5, 112.3, 45.0, 44.7, 44.2, 41.2, 39.6, 37.13, 37.11, 34.4, 8.6, 4.2. MS (ES+) m/z 462.2 (M+1).

reactant | (2-trifluoromethylphenyl)acetic acid | FC(C1=C(C=CC=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-{4-[2-(2-TRIFLUOROMETHYLPHENYL)ACETYL]PIPERAZIN-1-YL}PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C23H26F3N5O2
